US07141561B2
1-[4-(2-Bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
A solution of 1-(4-hydroxyphenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one (4.7 g) in 1,2-dibromoethane (23.6 ml) was mixed with sodium hydroxide solution (3N, 9.1 ml) and tetrabutylammonium hydrogen sulfate (232 mg). The mixture was heated at 75° C. for 2 hours. After cooling, the reaction mixture was mixed with dichloromethane and washed with sodium hydroxide solution (1N), hydrochloric acid (1N) and saturated brine. The organic phase was dried over magnesium sulfate and concentrated, and the residue was purified by chromatography on silica gel (eluent: dichloromethane/methanol 9:1). The product with the molecular weight of 451.32 (C23H19BrN2O3); MS (ESI): 451 ([M+H]+), was obtained in this way.

reactant | 1-(4-hydroxyphenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | 4.7 g | OC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C21H16N2O3
reactant | sodium hydroxide | 3N, 9.1 ml | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 1,2-dibromoethane | 23.6 ml | BrCCBr | C2H4Br2
catalyst | tetrabutylammonium hydrogen sulfate | 232 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-[4-(2-Bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | BrCCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H19BrN2O3
